US06992087B2
Preparation of 5-bromo-3,6-diethyl-N-(4,5,6,7-tetrahydro-1-benzothien-4-yl)pyrazin-2-amine
Following the procedure for the preparation of (1R,2S)-1-[(5-bromo-3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol but substituting 3,6-diethyl-N-(4,5,6,7-tetrahydro-1-benzothien-4-yl)pyrazin-2-amine and making non-critical variations provided the title compound as a oil: 1H NMR (300 MHz, CDCl3) δ 7.10, 6.91, 5.32, 4.47, 2.83, 2.53, 2.10, 1.93, 1.27; (MS/CI) calcd for C16H20BrN3S+H 369.9, found 369.9.

reactant | (1R,2S)-1-[(5-bromo-3,6-diethylpyrazin-2-yl)amino]-2,3-dihydro-1H-inden-2-ol | BrC=1N=C(C(=NC1CC)N[C@H]1[C@H](CC2=CC=CC=C12)O)CC | C17H20BrN3O
reactant | 3,6-diethyl-N-(4,5,6,7-tetrahydro-1-benzothien-4-yl)pyrazin-2-amine | C(C)C=1C(=NC(=CN1)CC)NC1CCCC2=C1C=CS2 | C16H21N3S
product | 5-bromo-3,6-diethyl-N-(4,5,6,7-tetrahydro-1-benzothien-4-yl)pyrazin-2-amine | BrC=1N=C(C(=NC1CC)NC1CCCC2=C1C=CS2)CC | C16H20BrN3S
